US04101506
62.8 g (0.4 mole) of 4-hydroxy-2,2,6,6-tetramethyl piperidine are dissolved in 250 ml of methylene chloride a solution of 16 g (0.4 mole) of sodium hydroxide in 250 ml of water is introduced and 20.5 ml of cyanogen chloride are added dropwise to the mixture at 0° to 5° C. The mixture is stirred until it reaches room temperature, after which the organic phase is separated off, dried with sodium sulphate, filtered and the methylene chloride distilled off, leaving 31 g (42.5% of the theoretical) of 1-cyano-4-hydroxy-2,2,6,6-tetramethyl piperidine. Bp 0.5 = 135° C; melting point 96°-98° C.

reactant | 4-hydroxy-2,2,6,6-tetramethyl piperidine | 0.4 mole, 62.8 g | OC1CC(NC(C1)(C)C)(C)C | C9H19NO
reactant | sodium hydroxide | 0.4 mole, 16 g | [OH-].[Na+]
reactant | cyanogen chloride | 20.5 ml | N#CCl | CClN
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | water | 250 ml | O | H2O
product | 1-cyano-4-hydroxy-2,2,6,6-tetramethyl piperidine | C(#N)N1C(CC(CC1(C)C)O)(C)C | C10H18N2O
